US04956360
2-(2-Aminoethyl)-5,6,7,8-tetrahydro-4H-thiazolo[5,4-b]azepine dihydrochloride
A solution (3 ml) of 4.75N hydrochloric acid in methanol was added to a solution (10 ml) of 2-[2-(tert-butoxycarbonylamino)ethyl]-5,6,7,8-tetrahydro-4H-thiazolo-[5,4-b]azepine (1.00 g) in methanol, and the whole was stirred for 5 hrs. at room temperature. The solvent was distilled off under reduced pressure. The residue was washed with ethyl ether, and recrystallized from a mixture of methanol and ethyl ether to give the title compound (0.64 g, 70.5%).

reactant | hydrochloric acid | 4.75N, 3 ml | Cl | ClH
reactant | 2-[2-(tert-butoxycarbonylamino)ethyl]-5,6,7,8-tetrahydro-4H-thiazolo-[5,4-b]azepine | 10 ml, 1.00 g | C(C)(C)(C)OC(=O)NCCC=1SC=2NCCCCC2N1 | C14H23N3O2S
solvent | methanol | CO | CH4O
product | 2-(2-Aminoethyl)-5,6,7,8-tetrahydro-4H-thiazolo[5,4-b]azepine dihydrochloride | 0.64 g, 70.5% | Cl.Cl.NCCC=1SC=2NCCCCC2N1 | InChI=1S/C9H15N3S.2ClH/c10-5-4-8-12-7-3-1-2-6-11-9(7)13-8;;/h11H,1-6,10H2;2*1H
